US04960897
Preparation of 4-chloro-2-(1-chloromethylvinyl)pyridine (Compound No. I-2)
A mixture of 4.3 g of 4-chloro-2-isopropenylpyridine, 3.8 g of N-chlorosuccinimide and 10 ml of carbon tetrachloride was stirred in an oil bath at 150° to 160° C. for hour. After the reaction mixture was cooled to room temperature, n-hexane was added thereto to remove the insoluble matter through filtration. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluted with n-hexane-ethyl acetate 20:1) to obtain 0.90 g of the objective compound.

reactant | 4-chloro-2-isopropenylpyridine | 4.3 g | ClC1=CC(=NC=C1)C(=C)C | C8H8ClN
reactant | N-chlorosuccinimide | 3.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | n-hexane | CCCCCC | C6H14
product | 4-chloro-2-(1-chloromethylvinyl)pyridine | 0.90 g | ClC1=CC(=NC=C1)C(=C)CCl | C8H7Cl2N
